US07572820B2
2-Methyl-4-(trifluoromethyl)-1-{[5-(trifluoromethyl)-2-furanyl]methyl}-1H-indole-5-carbonitrile
Synthesized as described in Example 4 using 2-methyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile and 2-(bromomethyl)-5-(trifluoromethyl)furan: 1H NMR (400 MHz, CDCl3) δ 7.54 (d, J=8.6 Hz, 1H), 7.51 (d, J=8.6 Hz, 1H), 6.70 (d, J=2.9 Hz, 1H), 6.63 (s, 1H), 6.11 (d, J=2.9 Hz, 1H), 5.32 (s, 2H), 2.55 (s, 3H); MS (ES) m/z 373 (M+1).

reactant | 2-methyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile | CC=1NC2=CC=C(C(=C2C1)C(F)(F)F)C#N | C11H7F3N2
reactant | 2-(bromomethyl)-5-(trifluoromethyl)furan | BrCC=1OC(=CC1)C(F)(F)F | C6H4BrF3O
product | 2-Methyl-4-(trifluoromethyl)-1-{[5-(trifluoromethyl)-2-furanyl]methyl}-1H-indole-5-carbonitrile | CC=1N(C2=CC=C(C(=C2C1)C(F)(F)F)C#N)CC=1OC(=CC1)C(F)(F)F | C17H10F6N2O
